US08748624B2
STEP A: N-(2-bromo-4-(trifluoromethyl)benzyl)-4′-chloro-[1,1′-biphenyl]-4-amine
Solid NaBH(OAc)3 (1.4 g, 6.8 mmol) was added to a DCE solution (10 mL) of 2-bromo-4-(trifluoromethyl)benzaldehyde (860 mg, 3.4 mmol), 4′-chloro-[1,1′-biphenyl]-4-amine (761 mg, 3.7 mmol), and AcOH (0.78 mL, 13.6 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 6.8 mmol, 1.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 2-bromo-4-(trifluoromethyl)benzaldehyde | 3.4 mmol, 860 mg | BrC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4BrF3O
reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 3.7 mmol, 761 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | AcOH | 13.6 mmol, 0.78 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | N-(2-bromo-4-(trifluoromethyl)benzyl)-4′-chloro-[1,1′-biphenyl]-4-amine | BrC1=C(CNC2=CC=C(C=C2)C2=CC=C(C=C2)Cl)C=CC(=C1)C(F)(F)F | C20H14BrClF3N
